US05783572
Silver sulphate (103 g, 0.33 mol) was added over 5 minutes to a stirred suspension of 4,5-dimethyl-2-nitroaniline (50.0 g, 0.30 mol) in ethanol (1500 mL) at 20° C. Iodine (84.0 g, 0.33 mol) was added in portions, and the resulting mixture was stirred for 30 minutes at 20° C. The mixture was filtered, and the filter cake washed thoroughly with ethanol (1 L) and dichloromethane (1 L). The filtrate was concentrated under reduced pressure, and the residue was redissolved in dichloromethane (500 mL), and washed with 10% aqueous sodium metabisulphite (2×500 mL), and brine (250 mL). The solution was dried (MgSO4) and concentrated under reduced pressure to give 4,5-dimethyl-6-iodo-2-nitroaniline (82.1 g, 93%) as an orange solid.

reactant | 4,5-dimethyl-2-nitroaniline | 0.30 mol, 50.0 g | CC1=CC(=C(N)C=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | Iodine | 0.33 mol, 84.0 g | II | I2
solvent | ethanol | 1500 mL | C(C)O | C2H6O
catalyst | Silver sulphate | 0.33 mol, 103 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 4,5-dimethyl-6-iodo-2-nitroaniline | 82.1 g, 93% | CC1=CC(=C(N)C(=C1C)I)[N+](=O)[O-] | C8H9IN2O2
